US05025025
To a solution of 2.6 g (5 mmol) of ethyl 8-(p-chlorophenylsulfonamido)-4-(2-iodoethyl)octanoate in 30 ml tetrahydrofuran is added 1.63 g (7.5 mmol) di-t-butyl dicarbonate and a catalytic amount of 4-dimethylaminopyridine. After 18 hours at room temperature, the solvent is evaporated. The residue is dissolved in ethyl acetate and the solution is washed with saturated sodium bicarbonate solution and brine, dried and evaporated. The residue is chromatographed on silica gel using 1:40 ethyl ether/methylene chloride as eluent to yield ethyl 8-[N-(p-chlorophenylsulfonyl)-N-(t-butoxycarbonyl)amino]-4-(2-iodoethyl)octanoate.

reactant | ethyl 8-(p-chlorophenylsulfonamido)-4-(2-iodoethyl)octanoate | 5 mmol, 2.6 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OCC)CCI | C18H27ClINO4S
reactant | di-t-butyl dicarbonate | 7.5 mmol, 1.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl 8-[N-(p-chlorophenylsulfonyl)-N-(t-butoxycarbonyl)amino]-4-(2-iodoethyl)octanoate | ClC1=CC=C(C=C1)S(=O)(=O)N(C(=O)OC(C)(C)C)CCCCC(CCC(=O)OCC)CCI | C23H35ClINO6S
